US04140725
(a) o-(1-ethoxyethoxy)-phenol
220 parts by weight of pyrocatechol is suspended in 200 parts by weight of toluene. After 2 drops of concentrated hydrochloric acid have been added 150 parts by weight of ethyl vinyl ether is dripped in while stirring. The internal temperature is prevented from rising above 65° C. by external cooling with ice. All of the pyrocatechol has dissolved upon completion of the reaction. 5 parts by weight of 2-normal caustic soda solution is added, the whole is allowed to cool, and dried over sodium sulfate, the solvent is removed and the product is distilled in vacuo. The yield is almost quantitative; boiling point 78° to 81° C. at 1 mm; nD25 = 1.5032

reactant | pyrocatechol | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | ethyl vinyl ether | C(=C)OCC | C4H8O
reactant | caustic soda | [OH-].[Na+]
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | o-(1-ethoxyethoxy)-phenol | C(C)OC(C)OC1=C(C=CC=C1)O | C10H14O3
